US05834468
A mixture of 2-phenethyl benzoic acid (11.3 g), oxalyl chloride (5.2 ml), DMF (0.2 ml) and dichloromethane (100 ml) was stirred for 1.5 hours. The solvent was evaporated, diglyme (75 ml) added and the mixture cooled to -70° C. Lithium tri-(tert-butoxy)aluminium hydride (100 ml, 0.5M solution in diglyme) was added dropwise over 45 minutes maintaining the reaction temperature below -60° C. The reaction was stirred at -70° C. for 1 hour and poured into a 2N HCl and ice mixture. The mixture was extracted with iso-hexane (3×100 ml). The extracts were washed with saturated aqueous sodium hydrogen carbonate, water and brine, dried (MgSO4), filtered and evaporated. The residue was purfied by MPLC eluting with dichloromethane/iso-hexane (1:1) to give 2-(phenethyl)benzaldehyde (7.77 g).

reactant | 2-phenethyl benzoic acid | 11.3 g | C(CC1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C15H14O2
reactant | oxalyl chloride | 5.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.2 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(phenethyl)benzaldehyde | 7.77 g | C(CC1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C15H14O
